US08071592B2
6-{[(1-{2-[7-(methyloxy)-2-oxo-1,5-naphthyridin-1(2H)-yl]ethyl}-4-piperidinyl)amino]methyl}-2H-pyrido[3,2-b][1,4]oxazin-3(4H)-one Hydrochloride
A mixture of 1-[2-(4-amino-1-piperidinyl)ethyl]-7-(methyloxy)-1,5-naphthyridin-2(1H)-one dihydrochloride (164 mg, 0.440 mmol) in chloroform (5 ml) and MeOH (0.5 ml) was treated with triethylamine (194 μl, 1.40 mmol) and stirred for 0.25 h before addition of 3-oxo-3,4-dihydro-2H-pyrido[3,2-b][1,4]oxazine-6-carboxaldehyde (for a synthesis see WO2003087098, Example 31(e)) (71 mg, 0.40 mmol). The reaction was stirred for 0.5 h before addition of NaBH(OAc)3 (254 mg, 1.20 mmol). The reaction was stirred for a further 0.5 h before addition of sat. aq NaHCO3 (20 ml). The reaction was then extracted with 20% MeOH in DCM (3×200 ml). The combined organic phases were dried, evaporated and the crude residue purified by chromatography on silica gel using a 0-20% MeOH/DCM gradient to provide the free base of the title compound (144 mg, 71%).

reactant | 1-[2-(4-amino-1-piperidinyl)ethyl]-7-(methyloxy)-1,5-naphthyridin-2(1H)-one dihydrochloride | 0.440 mmol, 164 mg | Cl.Cl.NC1CCN(CC1)CCN1C(C=CC2=NC=C(C=C12)OC)=O
reactant | triethylamine | 1.40 mmol, 194 μl | C(C)N(CC)CC | C6H15N
reactant | 3-oxo-3,4-dihydro-2H-pyrido[3,2-b][1,4]oxazine-6-carboxaldehyde | O=C1NC2=C(OC1)C=CC(=N2)C=O | C8H6N2O3
reactant | NaBH(OAc)3 | 1.20 mmol, 254 mg | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
reactant | NaHCO3 | 20 ml | C(=O)(O)[O-].[Na+]
solvent | chloroform | 5 ml | C(Cl)(Cl)Cl | CHCl3
solvent | MeOH | 0.5 ml | CO | CH4O
product | 6-{[(1-{2-[7-(methyloxy)-2-oxo-1,5-naphthyridin-1(2H)-yl]ethyl}-4-piperidinyl)amino]methyl}-2H-pyrido[3,2-b][1,4]oxazin-3(4H)-one Hydrochloride | 144 mg, 71% | Cl.COC1=CN=C2C=CC(N(C2=C1)CCN1CCC(CC1)NCC=1C=CC=2OCC(NC2N1)=O)=O | InChI=1S/C24H28N6O4.ClH/c1-33-18-12-20-19(26-14-18)3-5-23(32)30(20)11-10-29-8-6-16(7-9-29)25-13-17-2-4-21-24(27-17)28-22(31)15-34-21;/h2-5,12,14,16,25H,6-11,13,15H2,1H3,(H,27,28,31);1H
